US05849732
Under ice-cooling, 10 drops of a 50% choline solution was added to a mixture of 20.0 g of 3-(trifluoromethyl)phenylhydrazine and 6.63 g of acrylonitrile, and the mixture was heated at 95° C. for one hour. After allowed to stand for cooling, 22 ml of 1N hydrochloric acid was added and the mixture was stirred at 95° C. for 10 minutes. After subjecting the mixture to hot activated charcoal treatment, the mixture was adjusted to an alkaline pH with a 10% aqueous sodium hydroxide solution under ice-cooling. Precipitated crystals were collected by filtration and washed, and recrystallized from a mixed solution of hexane and ethyl acetate to give 17.27 g of 1-[3-(trifluoromethyl)phenyl]-3-amino-2-pyrazoline (yield: 66%, melting point: 104°-107° C.).

reactant | choline | OCC[N+](C)(C)C
reactant | 3-(trifluoromethyl)phenylhydrazine | 20.0 g | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | acrylonitrile | 6.63 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 1N, 22 ml | Cl | ClH
reactant | charcoal | C | CH4
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[3-(trifluoromethyl)phenyl]-3-amino-2-pyrazoline | 17.27 g, yield: 66% | FC(C=1C=C(C=CC1)N1N=C(CC1)N)(F)F | C10H10F3N3
